US08791102B2
Step (b) (2S,4R)-tert-butyl 2-(4-(4-fluorophenoxy)phenylcarbamoyl)-4-hydroxypyrrolidine-1-carboxylate was combined with hydrogen chloride (4N in dioxane, 20 mL) and the mixture was stirred at ambient temperature for 1 hour and then quenched with saturated sodium bicarbonate (aq., 100 mL). This mixture was extracted with ethyl acetate (30 mL) and the extract was washed with deionized water (30 mL) and then brine (30 mL), dried over anhydrous sodium sulfate, filtered and concentrated. The residue was triturated with ethyl acetate to give (2S,4R)—N-(4-(4-fluorophenoxy)phenyl)-4-hydroxypyrrolidine-2-carboxamide (1.47 g, 4.65 mmol, 51% yield) as an off-white solid.

reactant | (2S,4R)-tert-butyl 2-(4-(4-fluorophenoxy)phenylcarbamoyl)-4-hydroxypyrrolidine-1-carboxylate | FC1=CC=C(OC2=CC=C(C=C2)NC(=O)[C@H]2N(C[C@@H](C2)O)C(=O)OC(C)(C)C)C=C1 | C22H25FN2O5
solvent | hydrogen chloride | 4N, 20 mL | Cl | ClH
product | (2S,4R)—N-(4-(4-fluorophenoxy)phenyl)-4-hydroxypyrrolidine-2-carboxamide | 4.65 mmol, 1.47 g, 51% yield | FC1=CC=C(OC2=CC=C(C=C2)NC(=O)[C@H]2NC[C@@H](C2)O)C=C1 | C17H17FN2O3
